US04621084
A solution of 5-(8-benzyloxy-3-methylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzoxazolinone (1.6 g) in a mixture of ethanol (200 ml) and tetrahydrofuran (100 ml) was hydrogenated over 10% palladium on carbon (wet, 0.5 g) under an atmospheric pressure of hydrogen at ambient temperature for an hour. The catalyst and an insoluble material were filtered off and the filtrate was evaporated in vacuo. The residue was recrystallized from a mixture of tetrahydrofuran and ethanol to give 5-(8-hydroxy-3-methylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzoxazolinone (0.78 g). mp. >280° C.

reactant | 5-(8-benzyloxy-3-methylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzoxazolinone | 1.6 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C=2C=CC1=C(N(C(O1)=O)C)C2)C | C23H19N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 5-(8-hydroxy-3-methylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzoxazolinone | 0.78 g | OC=1C=2N(C=CC1)C(=C(N2)C=2C=CC1=C(N(C(O1)=O)C)C2)C | C16H13N3O3
